US09193720B2
Triethylamine (28.8 mL, 206 mmol) was added to a nitrogen purged solution of 3,5-dibromo-2,6-dimethylpyridin-4-ol (58 g, 206 mmol) and phosphorous oxychloride (57.7 mL, 619 mmol) in chloroform (450 mL) and stirred for 1 h at rt, then 3 h at 80° C. The reaction was removed from heating and immediately concentrated under house vaccum; then under high vacuum. The appearance was a cream colored solid, which was azeotroped with toluene (2×100 mL); treated with ice (200 g) for 10 min and carefully neutralized with NaHCO3 (powder), and 1N NaOH solution, and extracted with DCM (2×400 mL). The combined organic layers were dried (MgSO4), concentrated, and a beige solid was obtained that was washed with hexanes and dried under high vacuum to give 3,5-dibromo-4-chloro-2,6-dimethyl-pyridine 52.74 g (85.1%). Concentration of the hexanes gave 3.5 g of less pure product.

reactant | Triethylamine | 206 mmol, 28.8 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dibromo-2,6-dimethylpyridin-4-ol | 206 mmol, 58 g | BrC=1C(=NC(=C(C1O)Br)C)C | C7H7Br2NO
reactant | phosphorous oxychloride | 619 mmol, 57.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 450 mL | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dibromo-4-chloro-2,6-dimethyl-pyridine | 52.74 g, 85.1% | BrC=1C(=NC(=C(C1Cl)Br)C)C | C7H6Br2ClN
